US06037354
To a solution of 4-((3R)-3-tert-Butoxycarbonylamino-pyrrolidin-1-yl)-1-(4-fluorophenyl) cyclohexanol (1.05 g, 2.8 mmol) in ethyl acetate (50 ml), cooled to 0° C. was added hydrogen chloride gas, bubbled in gently for 5-10 minutes. The reaction mixture was stirred for 20 minutes at 0° C. and the above procedure was repeated twice. Concentration and flushing with ethyl acetate three times gave 4-((3R)-3-aminopyrrolidin-1-yl)-1-(4-fluorophenyl) cyclohexanol dihydrochloride (0.87 g, 89%); 1H NMR (DMSO)δ 11.33 (bd, 1H)), 8.60 (bd, 3H), 7.52 (m, 2H), 7.14 (m, 2H), 5.12 (bs, 1H), 3.35-4.04 (m, 6H), 1.76-2.27 (m, 10H).

reactant | 4-((3R)-3-tert-Butoxycarbonylamino-pyrrolidin-1-yl)-1-(4-fluorophenyl) cyclohexanol | 2.8 mmol, 1.05 g | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1CCC(CC1)(O)C1=CC=C(C=C1)F | C21H31FN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-((3R)-3-aminopyrrolidin-1-yl)-1-(4-fluorophenyl) cyclohexanol dihydrochloride | 0.87 g, 89% | Cl.Cl.N[C@H]1CN(CC1)C1CCC(CC1)(O)C1=CC=C(C=C1)F | InChI=1S/C16H23FN2O.2ClH/c17-13-3-1-12(2-4-13)16(20)8-5-15(6-9-16)19-10-7-14(18)11-19;;/h1-4,14-15,20H,5-11,18H2;2*1H/t14-,15?,16?;;/m1../s1
